US06750348B1
Anhydrous HCl (gas) was bubbled through a stirred solution of 1-methyl-8-(N-tert-butoxycarbonylamino)-1,2,3,4-tetrahydroquinoline (0.83 g, 3.16 mmol) in methanol (30 mL), at room temperature, for 10 minutes. The resultant solution was stirred at room temperature for 1 hour then concentrated under reduced pressure. The residue was partitioned between CH2Cl2 (50 mL) and aqueous NaOH (10 N, 10 mL). The phases were separated and the aqueous phase was extracted with CH2Cl2 (3×10 mL). The combined organic extracts were dried (Na2SO4) and concentrated to afford 0.468 g (88%) of 1-methyl-8-amino-1,2,3,4-tetrahydroquinoline as a white solid. 1H NMR (CDCl3) δ 1.83-1.91 (m, 2H), 2.69 (s, 3H), 2.78 (t, 2H, J=6.6 Hz), 3.07-3.11 (m, 2H), 3.84 (br s, 2H, NH2), 6.52 (d, 1H, J=7.5 Hz), 6.56 (d, 1H, J=7.5 Hz), 6.81 (dd, 1H, J=7.5, 7.5 Hz).

reactant | HCl | Cl | ClH
reactant | 1-methyl-8-(N-tert-butoxycarbonylamino)-1,2,3,4-tetrahydroquinoline | 3.16 mmol, 0.83 g | CN1CCCC2=CC=CC(=C12)NC(=O)OC(C)(C)C | C15H22N2O2
solvent | methanol | 30 mL | CO | CH4O
product | 1-methyl-8-amino-1,2,3,4-tetrahydroquinoline | 0.468 g, 88% | CN1CCCC2=CC=CC(=C12)N | C10H14N2
